US05474995
Step 5: 2-(4-Fluorophenyl)-3-(4-(methylthio)phenyl)-2-cyclopenten-1-one
To a suspension of PCC (4.5 g, 20.9 mmol) and 10 g of anhydrous 4Å molecular sieves in 150 mL of CH2Cl2 was added a solution of 2.2 g (7.3 mmol) of 1-(4-(methylthio)phenyl)-2-(4-fluorophenyl)-2-cyclopenten-1-ol in 20 mL CH2Cl2. The mixture was stirred for 1 h at r.t. and then diluted with 300 mL of Et2O. After filtration and concentration, the residue was flash chromatographed with 2:1 hexane/EtOAc to give 1.5 g of the title product.

reactant | PCC | 20.9 mmol, 4.5 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
reactant | 1-(4-(methylthio)phenyl)-2-(4-fluorophenyl)-2-cyclopenten-1-ol | 7.3 mmol, 2.2 g | CSC1=CC=C(C=C1)C1(C(=CCC1)C1=CC=C(C=C1)F)O | C18H17FOS
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 300 mL | CCOCC | C4H10O
product | 2-(4-Fluorophenyl)-3-(4-(methylthio)phenyl)-2-cyclopenten-1-one | 1.5 g | FC1=CC=C(C=C1)C=1C(CCC1C1=CC=C(C=C1)SC)=O | C18H15FOS
